US06281363B1
A solution of 0.298 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methyl-N-(2,4-dioxo-1-imidazolidinyl)valeramide in 3 ml of methanol was treated with 0.030 g of p-toluenesulphonic acid monohydrate. The mixture was stirred for 3.5 hours at room temperature and then diluted with ethyl acetate and washed in sequence with 5% aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride. The organic layer was dried over anhydrous magnesium sulphate and evaporated. The residue was triturated with diethyl ether to give 0.076 g of (E)-2(R)-[1(S)-(Hydroxycarbamoyl)-4-phenyl-3-butenyl]-4-methyl-N-(2,4-dioxo-1-imidazolidinyl)valeramide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methyl-N-(2,4-dioxo-1-imidazolidinyl)valeramide | 0.298 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN1C(NC(C1)=O)=O)CC(C)C | C25H34N4O6
reactant | p-toluenesulphonic acid monohydrate | 0.030 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 3 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2(R)-[1(S)-(Hydroxycarbamoyl)-4-phenyl-3-butenyl]-4-methyl-N-(2,4-dioxo-1-imidazolidinyl)valeramide | 0.076 g | ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN1C(NC(C1)=O)=O)CC(C)C | C20H26N4O5
